US05750531
Step 3: 6-Methyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine
A mixture solution of 6-methyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-hydroxypyrimidine(7.0 g, 27.4 mmol) prepared in the above Step 2, phosphorous oxychloride(30 ml) and N,N-dimethylaniline(2. 3 ml) was stirred at 90° C. for 2 hours and cooled. The reaction mixture was added to ice water and basified with sodium bicarbonate and then was extracted with ethyl ether. The ethyl ether layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give 4.5 g of titled compound.

reactant | 6-methyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-hydroxypyrimidine | 27.4 mmol, 7.0 g | CC1=CC(=NC(=N1)N1C(C2=CC=CC=C2CC1)C)O | C15H17N3O
reactant | N,N-dimethylaniline | 3 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | phosphorous oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Methyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 4.5 g, Yield: 60% | CC1=CC(=NC(=N1)N1C(C2=CC=CC=C2CC1)C)Cl | C15H16ClN3
